US07713994B2
To a solution of N,N-dimethylaminoethanethiol hydrochloride (2.9 g, 14 mmol) in N,N-dimethylformamide (DMF) (70 mL) is added potassium carbonate (19 g, 140 mmol), followed by 4-fluoronitrobenzene (1.5 mL, 14 mmol). After stirring overnight at room temperature, the reaction mixture is diluted with water and extracted 3× with ethyl acetate. The combined extracts were washed five times with water and with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude oil is purified by flash chromatography (Isco 40 g Redi-Sep column, MeOH/CHCl3) to give N,N-dimethyl-N-{2-[(4-nitrophenyl)thio]ethyl}amine (2.3 g, 72%) as a golden oil.

reactant | N,N-dimethylaminoethanethiol hydrochloride | 14 mmol, 2.9 g | Cl.CN(C)C(C)S
reactant | potassium carbonate | 140 mmol, 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoronitrobenzene | 14 mmol, 1.5 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N-dimethyl-N-{2-[(4-nitrophenyl)thio]ethyl}amine | 2.3 g, 72% | CN(CCSC1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O2S
